US08022076B2
In a 10 ml glass tube were placed (5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}acetic acid ethyl ester (35 mg, 0.088 mmol) and a saturated solution of methylamine in ethanol (2.0 ml). The tube was sealed with a septum and placed in the microwave cavity. Microwave irradiation of 200 W was used, the temperature being ramped from room temperature to 100° C. Once 100° C. was reached, the reaction mixture was held at this temperature for 30 minutes. The temperature was then ramped up to 150° C. and the reaction mixture was held at this temperature for a further 30 minutes. The resultant mixture was diluted with water (50 ml) and extracted with dichloromethane (3×50 ml). The combined organic extracts were dried (MgSO4) and the solvent removed in vacuo to give a residue which was purified by flash chromatography (silica) eluting with 5% methanol in dichloromethane to give N-methyl-2-{5-phenyl-4-[{pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}acetamide (2 mg).

reactant | (5-phenyl-4-[(pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}acetic acid ethyl ester | 0.088 mmol, 35 mg | C(C)OC(CC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2)=O | C22H20N4O2S
reactant | methylamine | CN | CH5N
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | N-methyl-2-{5-phenyl-4-[{pyridin-2-ylmethyl)amino]thieno[2,3-d]pyrimidin-2-yl}acetamide | 2 mg | CNC(CC=1N=C(C2=C(N1)SC=C2C2=CC=CC=C2)NCC2=NC=CC=C2)=O | C21H19N5OS
